US07851634B2
b) 1-(4-Bromo-pyridin-2-yl)-4-methoxy-butan-1-one
The Grignard reagent prepared from 20 mmol of 3-methoxypropylbromide and 22 mmol of magnesium in dry ether (100 ml) is added slowly to 30 mmol of 4-bromo-2-cyanopyridine in 80 ml of dry ether under argon. The reactions mixture is stirred for 12 hours at room temperature and 5M HCl is added. The mixture is made alkaline with 25% aqueous ammonium hydroxide solution and the layers are separated. The organic layer is dried over sodium sulphate and evaporated. Flash chromatography (SiO2 60 F) of the residue provides the title compound which is identified on the basis of the Rf value.

reactant | 3-methoxypropylbromide | 20 mmol | COCCCBr | C4H9BrO
reactant | magnesium | 22 mmol | [Mg] | Mg
reactant | 4-bromo-2-cyanopyridine | 30 mmol | BrC1=CC(=NC=C1)C#N | C6H3BrN2
reactant | HCl | 5M | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
product | 1-(4-Bromo-pyridin-2-yl)-4-methoxy-butan-1-one | BrC1=CC(=NC=C1)C(CCCOC)=O | C10H12BrNO2
